2184-08-08 07:01:00 Physician Resident Progress Note
Chief Complaint: 23M with HIV/AIDS presents with respiratory distress
   24 Hour Events:
   -Patient underwent bronchoscopy for RLL atelectasis and mediastinal
   shift.  Repeat CXR showing improved aeration, with persistent shift
   -After bronchoscopy, the patient's BP dropped to SBP 80s, and HR to
   150s.  Bolused three liters of NS with SBP rebound to 110-120 and HR in
   110 range.  UOP minimal.
   -A line placed for ABG monitoring
   -Low grade temp to 100.7, cultures sent
   Allergies:
   Azithromycin
   Rash; Shortness
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Agranulocytosis
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: unchanged
   Flowsheet Data as of  [**2184-8-8**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 126 (115 - 156) bpm
   BP: 104/59(74) {96/55(68) - 140/93(109)} mmHg
   RR: 22 (20 - 32) insp/min
   SpO2: 100%
   Wgt (current): 63.4 kg (admission): 68 kg
   Height: 69 Inch
             Total In:
                                                                      3 mL
                                                                  2,092 mL
   PO:
             TF:
   IVF:
                                                                      3 mL
                                                                  2,092 mL
   Blood products:
   Total out:
                                                                     35 mL
                                                                    130 mL
   Urine:
                                                                     35 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -32 mL
                                                                  1,962 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.46/35/191/23/2
   Ve: 11.7 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal), (S2: Normal),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bronchial breath sounds at the left base), Otherwise, coarse bilateral
   breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   441 K/uL
   8.5 g/dL
   122 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.1 mEq/L
   16 mg/dL
   110 mEq/L
   141 mEq/L
   26.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2184-8-3**]  05:49 AM
                             [**2184-8-3**]  06:07 AM
                             [**2184-8-3**]  11:18 AM
                             [**2184-8-3**]  10:10 PM
                             [**2184-8-4**]  12:40 AM
                             [**2184-8-4**]  03:16 AM
                             [**2184-8-4**]  04:33 AM
                             [**2184-8-4**]  04:48 AM
                             [**2184-8-8**]  02:36 AM
                             [**2184-8-8**]  02:53 AM
   WBC
   4.2
   3.9
   10.4
   Hct
   29.5
   29.0
   26.4
   Plt
   [**Telephone/Fax (3) 1096**]
   Cr
   0.4
   0.5
   0.5
   TCO2
   26
   28
   29
   30
   29
   31
   26
   Glucose
   169
   146
   122
   Other labs: PT / PTT / INR:12.1/56.5/1.0, ALT / AST:27/36, Alk Phos / T
   Bili:49/0.3, Amylase / Lipase:68/74, D-dimer:568 ng/mL, Fibrinogen:408
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:531 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR:
   Microbiology: Sputum from Bronchoscopy: 2+ GNR and GPC's in
   pairs/clusters
   Assessment and Plan
   Mr. [**Known lastname 324**] is a 23M with a PMH s/f AIDS and likely HIV encephalopathy,
   who was transferred to the ICU on [**8-8**] for respiratory distress, likely
   secondary to mucous plugging.
   .
   #. Respiratory distress:  Likely secondary to mucous plugging and
   subsequent RLL collapse.  CXR showing improved aeration of the right
   lung after bronchoscopic removal of thick white mucous.   There is,
   however, persistent mediastinal shift.  The patient was Afebrile, and
   his respiratory distress was thought to be secondary to mucous plugging
   only, however, he did spike a low grade temp this morning of unclear
   significance.
   -Follow up AM CXR, to assess for persistent shift or recurrent collapse
   -Monitor fever curve closely, and follow up sputum cultures
   -If he spikes any fevers today, I would favor adding back
   vanc/cefepime, which was discontinued on [**8-6**] as a trial off abx
   -Would favor weaning FiO2 rather than PEEP in the setting of recent
   lung collapse, down to 40% for pO2 of 192.  Would wean tidal volume
   slightly to 500 given pCO2 of 35 with mild respiratory alkalosis
   .
   #.Hemodynamics: sinus tachycardia to 150s with hypotension to SBP 80s.
   This occurs in the setting of mediastinal shift, and I am concerned
   about an obstructive shock picture.  He responds well to fluids, and
   given his low UOP, he is likely dry.
   -Monitor hemodynamics closely
   -CXR today to evaluate mediastinal shift
   -Access with two large bore PIV
   .
   #. ID: Has had a very complete work up for infectious diseases causing
   sepsis picture in the ICU, with no clear source.  The primary team had
   planned on taking off vanc/cefepime on [**8-6**] to observe him in the
   absence of abx.   He has had one low grade fever to 100.7, which is of
   unclear significance in the setting of a bronch and ?pneumonitis
   -Would continue current plan outlined by ID, with HAART, flagyl for
   ?C.diff, and atovoquone at ppx doses, while observing for
   fevers/decompensation.   If he develops any high grade fevers, would
   add back vanc/cefepime as indicated above.
   -f/u culture data
   -f/u ID recs
   .
   # Mental Status change: EEG and MRI c/w HIV encephalopathy.  Infectious
   work up negative to date
   -neuro recs
   -Family meeting re: grim prognosis
   .
   # Systolic dysfunction: LVEF 25% on admission, unclear if this is
   related to his underlying AIDS dx vs. acute decompensation in the
   setting of sepsis
   -Needs a repeat echo
   -monitor I/O closely, using lasix prn
   .
   # HIV: Pt has not been treated with HAART therapy in past [**1-31**]
   depression and poor compliance; given severity of infection was started
   on HAART while in the ICU.
   - Continue darunavir, raltegravir, tenofovir, ritonavir and lamivudine
   per ID recs
   - continue atovaquone prophylaxis
   .
   # Oral thrush: Due to mental status concerned for use of troches and
   cannot tolerate/cooperate with swish and swallow.
   - mouth to be swabbed with nystatin solution
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2184-8-8**] 12:04 AM
   Arterial Line - [**2184-8-8**] 12:36 AM
   18 Gauge - [**2184-8-8**] 02:04 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2184-08-09 05:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Restarted on Cefepime and Vancomycin
   - Family would like to have meeting today to address goals of care
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Azithromycin
   Rash; Shortness
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Agranulocytosis
   Last dose of Antibiotics:
   Vancomycin - [**2184-8-8**] 08:23 PM
   Cefipime - [**2184-8-9**] 12:48 AM
   Metronidazole - [**2184-8-9**] 12:48 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-8-8**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2184-8-8**] 08:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-9**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 95 (88 - 126) bpm
   BP: 124/70(89) {97/56(69) - 130/81(100)} mmHg
   RR: 20 (19 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.4 kg (admission): 68 kg
   Height: 69 Inch
             Total In:
                                                                  4,382 mL
                                                                    351 mL
   PO:
             TF:
                                                                     86 mL
                                                                    103 mL
   IVF:
                                                                  3,976 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    270 mL
   Urine:
                                                                  1,690 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,692 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 10 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.46/32/94.[**Numeric Identifier 126**]/22/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Gen
   HEENT
   Heart
   Lungs
   Abdomen
   Extremities
   Labs / Radiology
   426 K/uL
   7.6 g/dL
   88 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   12 mg/dL
   110 mEq/L
   140 mEq/L
   23.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2184-8-3**]  10:10 PM
                             [**2184-8-4**]  12:40 AM
                             [**2184-8-4**]  03:16 AM
                             [**2184-8-4**]  04:33 AM
                             [**2184-8-4**]  04:48 AM
                             [**2184-8-8**]  02:36 AM
                             [**2184-8-8**]  02:53 AM
                             [**2184-8-8**]  06:10 PM
                             [**2184-8-8**]  09:30 PM
                             [**2184-8-9**]  03:13 AM
   WBC
   3.9
   10.4
   5.4
   Hct
   29.0
   26.4
   23.5
   Plt
   [**Telephone/Fax (3) 1104**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   29
   30
   29
   31
   26
   25
   23
   Glucose
   146
   122
   88
   Other labs: PT / PTT / INR:12.1/56.5/1.0, ALT / AST:27/36, Alk Phos / T
   Bili:49/0.3, Amylase / Lipase:68/74, D-dimer:568 ng/mL, Fibrinogen:408
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:531 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Imaging: Cxray ([**8-9**]):
   Microbiology: [**8-8**] Blood culture: Pending
   [**8-8**] Sputum culture:
          >25 PMNs and <10 epithelial             cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI   IN PAIRS AND
   CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   Assessment and Plan
   Mr. [**Known lastname 324**] is a 23M with a PMH s/f AIDS and likely HIV encephalopathy,
   who was transferred to the ICU on [**8-8**] for respiratory distress, likely
   secondary to mucous plugging.
   .
   #. Respiratory distress:  Likely secondary to mucous plugging and
   subsequent RLL collapse.  CXR showing improved aeration of the right
   lung after bronchoscopic removal of thick white mucous.   There is,
   however, persistent mediastinal shift.  The patient was Afebrile, and
   his respiratory distress was thought to be secondary to mucous plugging
   only, however, he did spike a low grade temp this morning of unclear
   significance.
   -Follow up AM CXR, to assess for persistent shift or recurrent collapse
   -Monitor fever curve closely, and follow up sputum cultures
   -Would cover empirically with vanc/cefepime given recent
   decompensation, and patient
s poor reserve.
   -Would favor PEEP in the setting of large appearing lung volumes for
   pO2 of 192.  Would wean tidal volume slightly to 500 given pCO2 of 35
   with mild respiratory alkalosis
   #.Hemodynamics: sinus tachycardia to 150s with hypotension to SBP 80s.
   This occurs in the setting of mediastinal shift, and I am concerned
   about an obstructive shock picture.  He responds well to fluids, and
   given his low UOP, he is likely dry.
   -Monitor hemodynamics closely
   -CXR today to evaluate mediastinal shift
   -Access with two large bore PIV
   #. ID: Has had a very complete work up for infectious diseases causing
   sepsis picture in the ICU, with no clear source.  The primary team had
   planned on taking off vanc/cefepime on [**8-6**] to observe him in the
   absence of abx.   He has had one low grade fever to 100.7, which is of
   unclear significance in the setting of a bronch and ?pneumonitis
   -Continue HAART, atovoquone, vanc/cefepime given recent decompensation
   with poor functional reserve.
   -f/u culture data
   -f/u ID recs
   # Mental Status change: EEG and MRI c/w HIV encephalopathy.  Infectious
   work up negative to date
   -neuro recs
   -Family meeting re: grim prognosis
   # Systolic dysfunction: LVEF 25% on admission, unclear if this is
   related to his underlying AIDS dx vs. acute decompensation in the
   setting of sepsis
   -Needs a repeat echo
   -monitor I/O closely, using lasix prn
   # HIV: Pt has not been treated with HAART therapy in past [**1-31**]
   depression and poor compliance; given severity of infection was started
   on HAART while in the ICU.
   - Continue darunavir, raltegravir, tenofovir, ritonavir and lamivudine
   per ID recs
   - continue atovaquone prophylaxis
   .
   # Oral thrush: Due to mental status concerned for use of troches and
   cannot tolerate/cooperate with swish and swallow.
   - mouth to be swabbed with nystatin solution
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2184-8-8**] 03:26 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-8-8**] 12:36 AM
   18 Gauge - [**2184-8-8**] 02:04 AM
   20 Gauge - [**2184-8-8**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Remain in MICU

2184-08-10 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2184-8-9**] 10:15 AM
 TRANSTHORACIC ECHO - At [**2184-8-9**] 01:30 PM
   Family updated, ID team part of discussion
   Family requested not to give updates to other visitors
   Allergies:
   Azithromycin
   Rash; Shortness
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Agranulocytosis
   Last dose of Antibiotics:
   Metronidazole - [**2184-8-9**] 12:48 AM
   Vancomycin - [**2184-8-9**] 08:42 AM
   Cefipime - [**2184-8-10**] 01:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-8-9**] 08:03 PM
   Famotidine (Pepcid) - [**2184-8-9**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-10**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 71 (67 - 106) bpm
   BP: 123/68(88) {98/54(78) - 151/116(119)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.4 kg (admission): 68 kg
   Height: 69 Inch
             Total In:
                                                                  1,835 mL
                                                                    589 mL
   PO:
             TF:
                                                                    680 mL
                                                                    230 mL
   IVF:
                                                                    745 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                    410 mL
   Urine:
                                                                  2,530 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -695 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 618 (618 - 618) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen: Awake, breathing spontaneously, minimal responsiveness
   HEENT: NCAT, PERRLA, EOMI
   Heart: RRR, no murmurs
   Lungs: CTAB anteriorly
   Abdomen: NABS, NTND, No HSM
   Extremities: warm, well-perfused, 2+ pulses
   Labs / Radiology
   511 K/uL
   8.0 g/dL
   88 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   12 mg/dL
   110 mEq/L
   140 mEq/L
   24.7 %
   4.2 K/uL
        [image002.jpg]
                             [**2184-8-4**]  12:40 AM
                             [**2184-8-4**]  03:16 AM
                             [**2184-8-4**]  04:33 AM
                             [**2184-8-4**]  04:48 AM
                             [**2184-8-8**]  02:36 AM
                             [**2184-8-8**]  02:53 AM
                             [**2184-8-8**]  06:10 PM
                             [**2184-8-8**]  09:30 PM
                             [**2184-8-9**]  03:13 AM
                             [**2184-8-10**]  05:02 AM
   WBC
   3.9
   10.4
   5.4
   4.2
   Hct
   29.0
   26.4
   23.5
   24.7
   Plt
   [**Telephone/Fax (3) 1112**]11
   Cr
   0.5
   0.5
   0.5
   TCO2
   30
   29
   31
   26
   25
   23
   Glucose
   146
   122
   88
   Other labs: PT / PTT / INR:12.1/56.5/1.0, ALT / AST:27/36, Alk Phos / T
   Bili:49/0.3, Amylase / Lipase:68/74, D-dimer:568 ng/mL, Fibrinogen:408
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:531 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   MICROBIOLOGY
BLOOD CULTURES: Pending [**2184-8-8**]
BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2184-7-30**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2184-8-1**]):    NO GROWTH, <1000 CFU/ml.
   LEGIONELLA CULTURE (Final [**2184-8-6**]):    NO LEGIONELLA ISOLATED.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2184-7-31**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST SMEAR (Final [**2184-8-2**]):
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Preliminary): PENDING
   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary): No Virus isolated so far.
RADIOLOGY
CHEST X-RAY: ([**2184-8-8**]) IMPRESSION: Interval improvement in right lower lung aera
tion, left lower lung opacity most likely represents atelectasis, aspiration is
not excluded.
   [**2184-8-9**]: Pending
   Assessment and Plan
   Mr. [**Known lastname 324**] is a 23M with a PMH s/f AIDS and likely HIV encephalopathy,
   who was transferred to the ICU on [**8-8**] for respiratory distress, likely
   secondary to mucous plugging.
   #. Respiratory distress: Successfully extubated. Event likely secondary
   to mucous plugging, as suggested by mediastinal shift resolution after
   bronch. Now hemodynamically stable, afebrile.  Not likely PNA.
   -- If cultures remain negative today, would stop vanc/cefepime today
   -- Agressive pulmonary toilet / chest physical therapy.
   #. ID: Has had a very complete work up for infectious diseases causing
   sepsis picture in the ICU, with no clear source.  The primary team had
   planned on taking off vanc/cefepime on [**8-6**] to observe him in the
   absence of abx.   He has had one low grade fever to 100.7, which is of
   unclear significance in the setting of a bronch and ?pneumonitis
   -- Continue HAART, atovoquone, vanc/cefepime given recent
   decompensation with poor functional reserve.
   -- Given history of recent C diff, would consider extending flagyl tx
   by another 10 days, f/u with ID recs
   -- f/u culture data
   -- f/u ID recs
   # Mental Status change: EEG and MRI c/w HIV encephalopathy.  Infectious
   work up negative to date
   -- neuro toe involved again after transfer to floor to discuss
   prognosis with family
   # Systolic dysfunction: LVEF 25% on admission, now significanly
   improved with EF back to 50% without clear deficits. Unclear if this
   was related to his underlying AIDS dx vs. acute decompensation in the
   setting of sepsis
   -- monitor I/O closely, using lasix prn
   # HIV: Pt has not been treated with HAART therapy in past [**1-31**]
   depression and poor compliance; given severity of infection was started
   on HAART while in the ICU.
   -- Continue darunavir, raltegravir, tenofovir, ritonavir and lamivudine
   per ID recs
   -- continue atovaquone prophylaxis
   -- Maintain immune reconstitution syndrome in differential diagnosis
   .
   # Oral thrush: Continue mouth care
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2184-8-8**] 03:26 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-8-8**] 12:36 AM
   18 Gauge - [**2184-8-8**] 02:04 AM
   20 Gauge - [**2184-8-8**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  N/A
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:Transfer to floor